US04131611
To 15.9 g of 1-phenyl-3-azabicyclo[3.1.0]hexane in 20 ml of pyridine is added 20 ml of acetic anhydride. The mixture is allowed to stand overnight at room temperature and then evaporated to give an oil. This oil is dissolved in a mixture of ether and methylene chloride, washed with dilute hydrochloric acid and then sodium bicarbonate and dried over magnesium sulfate and evaporated to a pale amber liquid. This liquid is crystallized from hexane to give the product 3-acetyl-1-phenyl-3-azabicyclo[3.1.0]hexane mp 63°-65° C.

reactant | 1-phenyl-3-azabicyclo[3.1.0]hexane | 15.9 g | C1(=CC=CC=C1)C12CNCC2C1 | C11H13N
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-acetyl-1-phenyl-3-azabicyclo[3.1.0]hexane | C(C)(=O)N1CC2(CC2C1)C1=CC=CC=C1 | C13H15NO
